US08198464B2
Into an acetonitrile (10 ml) solution of 1-benzothien-2-yl(5-bromo-2-fluorophenyl)methanol (1.0 g) was dropwise added thionyl chloride (706 mg) at a temperature of 5° C. or lower, followed by stirring at 5.0 to 25.0° C. for 3.5 hours. The reaction mixture was subjected to distillation under reduced pressure to distill off the solvent and the residue was subjected to vacuum drying to obtain 2-[(5-bromo-2-fluorophenyl)(chloro)methyl]-1-benzothiophene [1.05 g, yield: 100%, purity: 99% (HPLC)].

reactant | 1-benzothien-2-yl(5-bromo-2-fluorophenyl)methanol | 1.0 g | S1C(=CC2=C1C=CC=C2)C(O)C2=C(C=CC(=C2)Br)F | C15H10BrFOS
reactant | thionyl chloride | 706 mg | S(=O)(Cl)Cl | Cl2OS
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-[(5-bromo-2-fluorophenyl)(chloro)methyl]-1-benzothiophene | 1.05 g, yield: 100% | BrC=1C=CC(=C(C1)C(C=1SC2=C(C1)C=CC=C2)Cl)F | C15H9BrClFS
